US03957580
A suspension of 14.74 g of wet immobilized cells of Example 14 in 30 ml of water containing 2.25 g of trans-cinnamic acid, 652 mg of ammonium chloride and 3.3 ml of concentrated ammonium hydroxide was adjusted to pH 9.5. The mixture was shaken at 37°C for 18 hours giving about 90% yield of L-phenylalanine, based on recovered cinnamic acid. The reaction solids were filtered and washed with water to give 14 g of wet immobilized cells containing 77% of their original phenylalanine ammonia-lyase activity. The L-phenylalanine was isolated from the filtrate using standard procedures.

reactant | trans-cinnamic acid | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | ammonium chloride | 652 mg | [Cl-].[NH4+]
reactant | ammonium hydroxide | 3.3 ml | [OH-].[NH4+]
solvent | water | 30 ml, 2.25 g | O | H2O
product | L-phenylalanine | about 90% yield | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
